US08252792B2
2-(6-Fluoro-1H-indol-4-yl)-6-(3-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine
Prepared according to the method used in the preparation of 6-(cis-3,5-dimethyl-piperazin-1-ylmethyl)-2-(6-fluoro-1H-indol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine, using 2-methyl-piperazine-1-carboxylic acid tert-butyl ester in place of 2,6-dimethyl-piperazine, followed by BOC-deprotection using TFA:DCM (1:1). The title compound was obtained as a white solid (19.8 mg, 33%).

reactant | 6-(cis-3,5-dimethyl-piperazin-1-ylmethyl)-2-(6-fluoro-1H-indol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | C[C@@H]1CN(C[C@@H](N1)C)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C1=C2C=CNC2=CC(=C1)F | C25H29FN6OS
reactant | 2-methyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CNCC1)C | C10H20N2O2
reactant | TFA DCM | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 2-(6-Fluoro-1H-indol-4-yl)-6-(3-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | FC1=CC(=C2C=CNC2=C1)C=1N=C(C2=C(N1)C=C(S2)CN2CC(NCC2)C)N2CCOCC2 | C24H27FN6OS
